US09446034B2
2-[(5-Chloro-2-{[4-methyl-1-(1-methylethyl)-1H-pyrazol-5-yl]amino}-4-pyridinyl)amino]-N-(methyloxy)benzamide
A microwave tube was charged with 2-[(2,5-dichloro-4-pyridinyl)amino]-N-(methyloxy)benzamide (100 mg, 0.32 mmol), 4-methyl-1-(1-methylethyl)-1H-pyrazol-5-amine (93.6 mg, 0.67 mmol), cesium carbonate (312.8 mg, 0.96 mmol) and DMF (5 mL). The reaction mixture was degassed under nitrogen for 10 min and palladium (II) acetate (3.6 mg, 0.016 mmol) and BINAP (19.9 mg, 0.032 mmol) were added. The reaction mixture was heated in an oil bath for 6 hours and then in a microwave at 150° C. for 40 min. The solvent was evaporated and the residue dissolved in MeOH. It was filtered thru celite and thru an Acrodisc to be purified on preparative Agilent HPLC (5 to 95% water:acetonitrile with 0.1% formic acid). Fractions were combined and evaporated. The brown oil residue was diluted in DMF and water was added. A precipitate crashed out. It was filtered and dried under vacuum at 40° C. for 6 hrs. LC-MS [M+H]+=415.1. 1H NMR (400 MHz, DMSO-d6) ppm 11.93 (s, 1 H) 9.48 (br. s., 1 H) 8.23 (s, 1 H) 7.93 (s, 1 H) 7.58 (d, J=7.83 Hz, 1 H) 7.50 (d, J=3.79 Hz, 2 H) 7.24 (s, 1 H) 7.12 (dt, J=7.83, 4.17 Hz, 1 H) 6.40 (br. s., 1 H) 4.33 (dt, J=13.14, 6.57 Hz, 1 H) 3.71 (s, 3 H) 1.78 (s, 3 H) 1.26 (d, J=6.57 Hz, 6 H).

reactant | 2-[(2,5-dichloro-4-pyridinyl)amino]-N-(methyloxy)benzamide | 0.32 mmol, 100 mg | ClC1=NC=C(C(=C1)NC1=C(C(=O)NOC)C=CC=C1)Cl | C13H11Cl2N3O2
reactant | 4-methyl-1-(1-methylethyl)-1H-pyrazol-5-amine | 0.67 mmol, 93.6 mg | CC=1C=NN(C1N)C(C)C | C7H13N3
reactant | cesium carbonate | 0.96 mmol, 312.8 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | BINAP | 0.032 mmol, 19.9 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
catalyst | palladium (II) acetate | 0.016 mmol, 3.6 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 2-[(5-Chloro-2-{[4-methyl-1-(1-methylethyl)-1H-pyrazol-5-yl]amino}-4-pyridinyl)amino]-N-(methyloxy)benzamide | ClC=1C(=CC(=NC1)NC1=C(C=NN1C(C)C)C)NC1=C(C(=O)NOC)C=CC=C1 | C20H23ClN6O2
